US08492430B2
{3′-(hydroxymethyl)-6-methyl-4-[3-(methylsulfonyl)propoxy]biphenyl-2-yl}methyl acetate
To a solution of [4-hydroxy-3′-(hydroxymethyl)-6-methylbiphenyl-2-yl]methyl acetate (1.02 g, 3.56 mmol) and 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate (1.25 g, 4.27 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (0.640 g, 4.32 mmol), and the mixture was stirred at 90° C. for 21 hr under nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=50:50-100:0) to give the title compound (0.87 g, yield 60%) as a colorless oil.

reactant | [4-hydroxy-3′-(hydroxymethyl)-6-methylbiphenyl-2-yl]methyl acetate | 3.56 mmol, 1.02 g | C(C)(=O)OCC1=C(C(=CC(=C1)O)C)C1=CC(=CC=C1)CO | C17H18O4
reactant | 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate | 4.27 mmol, 1.25 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCS(=O)(=O)C | C11H16O5S2
reactant | potassium carbonate | 4.32 mmol, 0.640 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | {3′-(hydroxymethyl)-6-methyl-4-[3-(methylsulfonyl)propoxy]biphenyl-2-yl}methyl acetate | 0.87 g, yield 60% | C(C)(=O)OCC1=C(C(=CC(=C1)OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)CO | C21H26O6S
